US07265152B2
Preparation of 5-cyano-2-phenyl-benzofuran-3-carboxylic acid methylamide
Preparation of compound 26(a) (acetic acid 4-cyano-2-phenylethynyl-phenyl ester). 1,4-Dioxane (2.5 mL, dry) was added to a stirred suspension of CuI (8.0 mg, 2 mol %) and dichlorobis(benzonitrile)palladium (II) (24 mg, 3 mol %) in a dry septum-capped flask with constant purging of argon. Tri-t-butylphosphine (542 μl, 0.25M solution in 1,4-dioxane), diisopropyl amine (350 μl, 4.17 mmol), acetic acid 2-bromo-4-cyano-phenyl ester (500 mg, 2.08 mmol), and phenyl acetylene (254 mg, 2.71 mmol) were added with syringes to the stirred reaction mixture. The reaction mixture was stirred for 6 hours, and then diluted with ethyl acetate and passed through small pad of silica gel. The filtrate was concentrated, and the crude product was purified by column chromatography (silica gel, 5 to 20% ethyl acetate in hexanes) to provide 390 mg (72%) of the desired product.

reactant | Tri-t-butylphosphine | 0.25M, 542 μl | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | diisopropyl amine | 4.17 mmol, 350 μl | C(C)(C)NC(C)C | C6H15N
reactant | acetic acid 2-bromo-4-cyano-phenyl ester | 2.08 mmol, 500 mg | BrC1=C(C=CC(=C1)C#N)OC(C)=O | C9H6BrNO2
reactant | phenyl acetylene | 2.71 mmol, 254 mg | C1(=CC=CC=C1)C#C | C8H6
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | CuI | 8.0 mg | [Cu]I
catalyst | dichlorobis(benzonitrile)palladium | 24 mg | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
solvent | 1,4-Dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
product | 5-cyano-2-phenyl-benzofuran-3-carboxylic acid methylamide | 390 mg, 72% | CNC(=O)C1=C(OC2=C1C=C(C=C2)C#N)C2=CC=CC=C2 | C17H12N2O2
